US04012510
2.5 ml of liquid hydrogen fluoride is added to 2.5 ml. of dimethylformamide cooled to -40° C. The reaction mixture is combined with 250 mg. of N-bromosuccinimide, and then 500 mg. of 3β-hydroxy-21-acetoxy-15α,16α-methylene-5-pregnen-20-one, dissolved in 5 ml. of methylene chloride, is introduced into this reaction mixture. The latter is agitated for 5 minutes at -15° C., poured into saturated potassium bicarbonate solution, and extracted with methylene chloride. After drying and evaporation, 700 mg. of crude 6β-fluoro-5-bromo-3β-hydroxy-21-acetoxy-15α,16α-methylene-5α-pregnan-20-one is obtained.

reactant | hydrogen fluoride | F | FH
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3β-hydroxy-21-acetoxy-15α,16α-methylene-5-pregnen-20-one | O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@@H]5[C@H]([C@H](C(COC(C)=O)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C5 | C24H34O4
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6β-fluoro-5-bromo-3β-hydroxy-21-acetoxy-15α,16α-methylene-5α-pregnan-20-one | F[C@@H]1C[C@H]2[C@@H]3[C@@H]4[C@H]([C@H](C(COC(C)=O)=O)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](C[C@]12Br)O)C)C)C4 | C24H34BrFO4
